US08791129B2
(2-Bromo-4,5-difluorobenzyl)-tert-butylmethylamine
200 mg of 1-bromo-2-chloromethyl-4,5-difluorobenzene are dissolved in 5 ml of acetonitrile. 540 mg of caesium carbonate and 206 μl of tert-butylmethylamine are added, and the mixture is stirred at 80° C. for 16 h. After cooling to 25° C., the mixture is filtered, and the filtrate is evaporated to dryness. The residue is taken up in 5 ml of ethyl acetate, the solution is washed with 5 ml of 2N sodium hydroxide solution, and the combined organic phases are dried over sodium sulfate. After filtration, the filtrate is evaporated to dryness, after which the product is isolated as oil.

reactant | 1-bromo-2-chloromethyl-4,5-difluorobenzene | 200 mg | BrC1=C(C=C(C(=C1)F)F)CCl | C7H4BrClF2
reactant | caesium carbonate | 540 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butylmethylamine | 206 μl | C(C)(C)(C)NC | C5H13N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (2-Bromo-4,5-difluorobenzyl)-tert-butylmethylamine | BrC1=C(CN(C)C(C)(C)C)C=C(C(=C1)F)F | C12H16BrF2N
